US07169925B2
Step A1: 3-Amino-6-trifluoromethyl-1H-indole-2-carboxylic acid, ethyl ester
Under nitrogen, stir and heat a mixture of 2-fluoro-4-(trifluoromethyl)benzonitrile (1.0 g, 5.29 mmol), ethyl glycinate hydrochloride (886 mg, 6.3 mmol), potassium carbonate (1.46 g, 6.3 mmol) and 1-methyl-2-pyrrolidinone (20 mL) at 115–120° C. After six hours add potassium tert-butoxide (700 mg, 6.2 mmol), and stir at ambient temperature for 2 h. Quench into ice/water, extract the aqueous mixture with ether, wash the extract with water and dry it with magnesium sulfate. Filter and concentrate under vacuum to yield the crude product. Chromatograph the crude product on silica gel (10 g, Sepack cartridge) with dichloromethane as eluent to afford 332 mg (23%) of the title compound. Identical on TLC (silica gel, dichloromethane) to the compound disclosed in U.S. Pat. No. 5,189,054.

reactant | 2-fluoro-4-(trifluoromethyl)benzonitrile | 5.29 mmol, 1.0 g | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | ethyl glycinate hydrochloride | 6.3 mmol, 886 mg | Cl.NCC(=O)OCC
reactant | potassium carbonate | 6.3 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium tert-butoxide | 6.2 mmol, 700 mg | CC(C)([O-])C.[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 3-Amino-6-trifluoromethyl-1H-indole-2-carboxylic acid, ethyl ester | 332 mg, 23% | NC1=C(NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C12H11F3N2O2
